US04414225
Butyl 6-(2-chlorobenzyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine-2-carboxylate
2.0 gm (0.015 mol) of butyl glycolate were slowly added dropwise, while vigorously stirring, to a suspension of 0.72 gm (0.015 mol) of 50% sodium hydride in 10 ml of absolute dioxane at room temperature while dry nitrogen was introduced. The temperature of the intensely foaming reaction mixture was kept below 30° C. by cooling with ice-cold water, as needed. After 11/2 hours of stirring at room temperature, a solution of 2.84 gm (0.010 mol) of 1-(2-chlorobenzyl)-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine in 20 ml of absolute dioxane was added dropwise, whereupon the temperature of the reaction mixture rose from 20° C. to about 33° C. Then, the mixture was stirred for two hours at room temperature, poured into about 150 ml of ice-cold water, and the aqueous mixture was extracted three times with ethyl acetate. The combined organic phases were extracted with water three times, dried over sodium sulfate and concentrated by evaporation. The residue was purified by column chromatography on silicagel, using chloroform/ethyl acetate (93:7) as eluant.

reactant | butyl glycolate | 0.015 mol, 2.0 gm | C(CO)(=O)OCCCC | C6H12O3
reactant | sodium hydride | 0.015 mol, 0.72 gm | [H-].[Na+]
reactant | 1-(2-chlorobenzyl)-4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine | 0.010 mol, 2.84 gm | ClC1=C(CN2CCC(=C(CC2)C=O)Cl)C=CC=C1 | C14H15Cl2NO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | Butyl 6-(2-chlorobenzyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine-2-carboxylate | ClC1=C(CN2CCC3=C(CC2)C=C(O3)C(=O)OCCCC)C=CC=C1 | C20H24ClNO3
